### PR TITLE
[Merged by Bors] - feat: new lemmas about proper maps in Mathlib.Topology.ProperMap

### PR DESCRIPTION
**Pull request by EtienneC30**
These are new lemmas added to the file about proper maps.

---

These modifications were done during the conference "Lean for the curious mathematician" 2024.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/ProperMap.lean [hunk 1]
```diff
@@ -136,6 +137,64 @@ lemma IsProperMap.ultrafilter_le_nhds_of_tendsto (h : IsProperMap f) ⦃𝒰 : U
...
+  rw [MapClusterPt, ← Filter.map_map] at h
+  rcases hg.clusterPt_of_mapClusterPt h with ⟨y, hy1, hy2⟩
+  rcases hf.clusterPt_of_mapClusterPt hy2 with ⟨x, hx1, hx2⟩
+  use x
+  rw [← hy1, ← hx1]
+  exact ⟨rfl, by assumption⟩
+
+/-- If the composition of two continuous functions `g ∘ f` is proper and `f` is surjective,
+then `g` is proper. -/
+lemma isProperMap_of_comp_of_surj {f : X → Y} {g : Y → Z} (hf : Continuous f)
```
Comment (riccardobrasca) [inline Mathlib/Topology/ProperMap.lean:153]: `f` and `g` are already in scope I think

File: Mathlib/Topology/ProperMap.lean [hunk 2]
```diff
@@ -136,6 +137,64 @@ lemma IsProperMap.ultrafilter_le_nhds_of_tendsto (h : IsProperMap f) ⦃𝒰 : U
...
+    _ = comap f (nhds (f x) ⊓ ℱ) := by rw [← comap_inf]
+
+/-- If the composition of two continuous functions `g ∘ f` is proper and `g` is injective,
+then `f` is proper. -/
+lemma isProperMap_of_comp_of_inj {f : X → Y} {g : Y → Z} (hf : Continuous f) (hg : Continuous g)
+    (hgf : IsProperMap (g ∘ f)) (g_inj : g.Injective) : IsProperMap f := by
+  refine ⟨hf, fun ℱ y h ↦ ?_⟩
+  rcases hgf with ⟨_, h'⟩
+  have : MapClusterPt (g y) ℱ (g ∘ f) := by
+    apply ClusterPt.map h
```
Comment (riccardobrasca) [inline Mathlib/Topology/ProperMap.lean:176]: If after this line you have more than one goal, can you separate them using dots?

File: Mathlib/Topology/ProperMap.lean [hunk 3]
```diff
@@ -226,6 +285,41 @@ theorem isProperMap_iff_isClosedMap_and_compact_fibers :
     rw [← clusterPt_lift'_closure_iff]
     exact hx.mono inf_le_left
 
+/-- An injective and continuous function is proper if and only if it is close. -/
+lemma isProperMap_iff_isClosedMap_of_inj (f_cont : Continuous f) (f_inj : f.Injective) :
+    IsProperMap f ↔ IsClosedMap f := by
+  constructor
```
Comment (riccardobrasca) [inline Mathlib/Topology/ProperMap.lean:291]: Same here, if at some you have more than one goal it's better (for readability) to use `·`: since the first one is very short, you can do something like
```lean
· ... --short proof
... --longer proof

File: Mathlib/Topology/ProperMap.lean [hunk 4]
```diff
@@ -136,6 +137,64 @@ lemma IsProperMap.ultrafilter_le_nhds_of_tendsto (h : IsProperMap f) ⦃𝒰 : U
...
+    (hg : Continuous g) (hgf : IsProperMap (g ∘ f)) (f_surj : f.Surjective) : IsProperMap g := by
+  refine ⟨hg, fun ℱ z h ↦ ?_⟩
+  rcases hgf with ⟨_, h'⟩
+  rw [← inf_top_eq ℱ, ← Filter.principal_univ, ← f_surj.range_eq, ← ℱ.map_comap f, MapClusterPt,
+  Filter.map_map, ← MapClusterPt] at h
+  rcases h' h with ⟨x, hx1, hx2⟩
+  use f x
+  refine ⟨hx1, ?_⟩
+  apply neBot_of_comap
+  apply NeBot.mono hx2
```
Comment (riccardobrasca) [inline Mathlib/Topology/ProperMap.lean:163]:
```suggestion
  refine ⟨f x, hx1, neBot_of_comap (m := f) (NeBot.mono hx2 ?_)⟩
```
Feel free to apply this or not. It is mainly to show you that is possible to short proofs if you want (for example sometimes the math is completely trivial, but if you think the previous proof is more readable let's keep it).

File: Mathlib/Topology/ProperMap.lean [hunk 5]
```diff
@@ -136,6 +137,64 @@ lemma IsProperMap.ultrafilter_le_nhds_of_tendsto (h : IsProperMap f) ⦃𝒰 : U
...
+  exact ⟨rfl, by assumption⟩
+
+/-- If the composition of two continuous functions `g ∘ f` is proper and `f` is surjective,
+then `g` is proper. -/
+lemma isProperMap_of_comp_of_surj {f : X → Y} {g : Y → Z} (hf : Continuous f)
+    (hg : Continuous g) (hgf : IsProperMap (g ∘ f)) (f_surj : f.Surjective) : IsProperMap g := by
+  refine ⟨hg, fun ℱ z h ↦ ?_⟩
+  rcases hgf with ⟨_, h'⟩
+  rw [← inf_top_eq ℱ, ← Filter.principal_univ, ← f_surj.range_eq, ← ℱ.map_comap f, MapClusterPt,
+  Filter.map_map, ← MapClusterPt] at h
```
Comment (riccardobrasca) [inline Mathlib/Topology/ProperMap.lean:158]:
```suggestion
  rw [← inf_top_eq ℱ, ← principal_univ, ← f_surj.range_eq, ← ℱ.map_comap f, MapClusterPt,
    map_map, ← MapClusterPt] at h
```
`Filter` is opened, so there is no need to write it (maybe this is not the only place where you can erase it).

**Comment by EtienneC30** [comment]
Thanks for your quick feedback!

File: Mathlib/Topology/ProperMap.lean [hunk 6]
```diff
@@ -136,6 +137,60 @@ lemma IsProperMap.ultrafilter_le_nhds_of_tendsto (h : IsProperMap f) ⦃𝒰 : U
...
+  use x
+  rw [← hy1, ← hx1]
+  exact ⟨rfl, by assumption⟩
+
+/-- If the composition of two continuous functions `g ∘ f` is proper and `f` is surjective,
+then `g` is proper. -/
+lemma isProperMap_of_comp_of_surj (hf : Continuous f)
+    (hg : Continuous g) (hgf : IsProperMap (g ∘ f)) (f_surj : f.Surjective) : IsProperMap g := by
+  refine ⟨hg, fun ℱ z h ↦ ?_⟩
+  rcases hgf with ⟨_, h'⟩
```
Comment (ADedecker) [inline Mathlib/Topology/ProperMap.lean:156]: This is a very minor stylistic comment: notice that the `_` still introduces an (unnamed) hypothesis, which clutters the goal view and may still be used by tactics later. Instead, you could do the following to completely discard this hypothesis:
```suggestion
  rcases hgf with ⟨-, h'⟩
```

Another solution, maybe better, would be to directly use `hgf.clusterPt_of_mapClusterPt` where you use `h'`.

This applies to other occurrences of the same pattern below.

File: Mathlib/Topology/ProperMap.lean [hunk 7]
```diff
@@ -136,6 +137,60 @@ lemma IsProperMap.ultrafilter_le_nhds_of_tendsto (h : IsProperMap f) ⦃𝒰 : U
...
+  rw [← inf_top_eq ℱ, ← principal_univ, ← f_surj.range_eq, ← ℱ.map_comap f, MapClusterPt,
+    map_map, ← MapClusterPt] at h
```
Comment (ADedecker) [inline Mathlib/Topology/ProperMap.lean:158]: You can use [Filter.map_comap_of_surjective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Basic.html#Filter.map_comap_of_surjective) directly here:
```suggestion
  rw [← ℱ.map_comap_of_surjective f_surj, MapClusterPt, map_map, ← MapClusterPt] at h
```

**Comment by riccardobrasca** [comment]
If you are satisfied don't forget to remove the "WIP" label and add "awaiting review". You can also choose the "topology" label.

File: Mathlib/Topology/ProperMap.lean [hunk 8]
```diff
@@ -136,6 +137,60 @@ lemma IsProperMap.ultrafilter_le_nhds_of_tendsto (h : IsProperMap f) ⦃𝒰 : U
...
+  rcases h' h with ⟨x, hx1, hx2⟩
+  refine ⟨f x, hx1, neBot_of_comap (m := f) (NeBot.mono hx2 ?_)⟩
+  calc
+    𝓝 x ⊓ comap f ℱ
+      ≤ comap f (𝓝 (f x)) ⊓ comap f ℱ := inf_le_inf_right _ (hf.tendsto x).le_comap
+    _ = comap f (𝓝 (f x) ⊓ ℱ) := comap_inf.symm
```
Comment (ADedecker) [inline Mathlib/Topology/ProperMap.lean:164]: You can simplify this a bit by using again the equality `ℱ = map f (comap f ℱ)`, together with [ClusterPt.map](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Basic.html#ClusterPt.map):
```suggestion
  rw [← ℱ.map_comap_of_surjective f_surj]
  exact ⟨f x, hx1, hx2.map hf.continuousAt tendsto_map⟩
```

File: Mathlib/Topology/ProperMap.lean [hunk 9]
```diff
@@ -136,6 +137,60 @@ lemma IsProperMap.ultrafilter_le_nhds_of_tendsto (h : IsProperMap f) ⦃𝒰 : U
...
+
+/-- If the composition of two continuous functions `g ∘ f` is proper and `g` is injective,
+then `f` is proper. -/
+lemma isProperMap_of_comp_of_inj {f : X → Y} {g : Y → Z} (hf : Continuous f) (hg : Continuous g)
+    (hgf : IsProperMap (g ∘ f)) (g_inj : g.Injective) : IsProperMap f := by
+  refine ⟨hf, fun ℱ y h ↦ ?_⟩
+  rcases hgf with ⟨_, h'⟩
+  have : MapClusterPt (g y) ℱ (g ∘ f) := by
+    refine h.map (hg.tendsto y) ?_
+    rw [← map_map, Tendsto]
```
Comment (ADedecker) [inline Mathlib/Topology/ProperMap.lean:174]:
```suggestion
  have : MapClusterPt (g y) ℱ (g ∘ f) := h.map hg.continuousAt tendsto_map
```

Two things here:
- As you noticed, `ContinuousAt` unfolds to a `Tendsto` statement. Still, it's a bit cleaner to use `hg.continuousAt` directly, rather than `hg.tendsto`.
- It turns out the functoriality of `map` is definitional, so you can (ab)use it and use [Filter.tendsto_map](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Basic.html#Filter.tendsto_map) directly. If you're not happy with this feel free to ignore.

File: Mathlib/Topology/ProperMap.lean [hunk 10]
```diff
@@ -136,6 +137,60 @@ lemma IsProperMap.ultrafilter_le_nhds_of_tendsto (h : IsProperMap f) ⦃𝒰 : U
...
+    (hgf : IsProperMap (g ∘ f)) : IsProperMap f := by
+  rw [isProperMap_iff_ultrafilter_of_t2]
+  refine ⟨hf, fun 𝒰 y h ↦ ?_⟩
+  rw [isProperMap_iff_ultrafilter] at hgf
+  rcases hgf with ⟨_, h'⟩
+  have : Tendsto (g ∘ f) ↑𝒰 (𝓝 (g y)) := by
+    rw [Tendsto, ← map_map]
+    calc
+      map g (map f ↑𝒰) ≤ map g (𝓝 y) := map_mono h
+      _                ≤ 𝓝 (g y) := hg.tendsto y
```
Comment (ADedecker) [inline Mathlib/Topology/ProperMap.lean:190]: This is fine, but you could also write it as a composition of limits directly:
```suggestion
  have : Tendsto (g ∘ f) ↑𝒰 (𝓝 (g y)) := (hg.tendsto y).comp h
```

File: Mathlib/Topology/ProperMap.lean [hunk 11]
```diff
@@ -226,6 +281,36 @@ theorem isProperMap_iff_isClosedMap_and_compact_fibers :
     rw [← clusterPt_lift'_closure_iff]
     exact hx.mono inf_le_left
 
+/-- An injective and continuous function is proper if and only if it is close. -/
+lemma isProperMap_iff_isClosedMap_of_inj (f_cont : Continuous f) (f_inj : f.Injective) :
+    IsProperMap f ↔ IsClosedMap f := by
+  refine ⟨fun h ↦ h.isClosedMap, fun h ↦ ?_⟩
+  rw [isProperMap_iff_isClosedMap_and_compact_fibers]
+  exact ⟨f_cont, h, fun y ↦ (subsingleton_singleton.preimage f_inj).isCompact⟩
```
Comment (ADedecker) [inline Mathlib/Topology/ProperMap.lean:289]: Could you also deduce [Homeomorph.isProperMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ProperMap.html#Homeomorph.isProperMap) from this? I think you can safely move it down the file.

**Review by ADedecker — APPROVED** [review]
Thanks a lot, this looks very good! My comments are mostly stylistic as well as some suggestions to shorten some proofs.

As I told you I don't want to be the one merging this since I've supervised you during the week, but feel free to add the `awaiting-review` tag as soon as you've addressed my comments so that someone else can finish the review.

File: Mathlib/Topology/ProperMap.lean [hunk 12]
```diff
@@ -136,6 +126,43 @@ lemma IsProperMap.ultrafilter_le_nhds_of_tendsto (h : IsProperMap f) ⦃𝒰 : U
...
+
+/-- If the composition of two continuous functions `g ∘ f` is proper and `f` is surjective,
+then `g` is proper. -/
+lemma isProperMap_of_comp_of_surj (hf : Continuous f)
+    (hg : Continuous g) (hgf : IsProperMap (g ∘ f)) (f_surj : f.Surjective) : IsProperMap g := by
+  refine ⟨hg, fun ℱ z h ↦ ?_⟩
+  rw [← ℱ.map_comap_of_surjective f_surj, MapClusterPt, map_map, ← MapClusterPt] at h
+  rcases hgf.clusterPt_of_mapClusterPt h with ⟨x, rfl, hx⟩
+  rw [← ℱ.map_comap_of_surjective f_surj]
+  exact ⟨f x, rfl, hx.map hf.continuousAt tendsto_map⟩
```
Comment (PatrickMassot) [inline Mathlib/Topology/ProperMap.lean:146]: In this lemma and the previous one, there is too much definitional rewriting going on. This is the signal that a stupid lemma is missing. Something like:
```lean
lemma mapClusterPt_comp {X α β : Type*} {x : X} [TopologicalSpace X] {F : Filter α} {φ : α → β}
    {u : β → X} : MapClusterPt x F (u ∘ φ) ↔ MapClusterPt x (map φ F) u := Iff.rfl
```
that should go in an earlier file, very close to the definition of `MapClusterPt`.

**Review by PatrickMassot — COMMENTED** [review]
Nice work!

**Comment by EtienneC30** [comment]
Thanks! I hope I added the new lemma in the right place.

**Comment by PatrickMassot** [comment]
I would put a bit further down, next to `mapClusterPt_of_comp` since it is not about the definition itself. But it can also stay there.

bors d+

File: Mathlib/Topology/ProperMap.lean [hunk 13]
```diff
@@ -226,6 +254,45 @@ theorem isProperMap_iff_isClosedMap_and_compact_fibers :
...
+
+/-- The identity is proper. -/
+@[simp] lemma isProperMap_id : IsProperMap (id : X → X) := (Homeomorph.refl X).isProperMap
+
+/-- The coercion from a closed subset is proper. -/
+lemma isProperMap_subtype_val_of_closed {U : Set X} (hU : IsClosed U) : IsProperMap ((↑) : U → X) :=
+  isProperMap_of_isClosedMap_of_inj
+    continuous_subtype_val
+    Subtype.val_injective
+    hU.closedEmbedding_subtype_val.isClosedMap
```
Comment (ADedecker) [inline Mathlib/Topology/ProperMap.lean:281]: Last small comment from me: since you're using `hU.closedEmbedding_subtype_val`, why not use the `ClosedEmbedding` version of the lemma?
